### PR TITLE
Integerate bvmodeq final version from CAV

### PR DESCRIPTION
**Pull request by limpa105**

### CODE REVIEW

File: bvmod_eq/BVModEq/.DS_Store
Comment (jprider63) [inline bvmod_eq/BVModEq/.DS_Store:1]: We should delete this file.

File: bvmod_eq/.DS_Store
Comment (jprider63) [inline bvmod_eq/.DS_Store:1]: Delete this file too.

File: examples/zkLeanExamples/And.lean [hunk 1]
```diff
@@ -76,11 +76,10 @@ lemma and_32_mle_one_chunk_ (bv1 bv2 : BitVec 32) (fv1 fv2 : Vector (ZMod ff) 32
...
+--- unfold Jolt Definitions
  unfold AND_64
  unfold evalSubtable
- simp (config := { failIfUnchanged := false })
  unfold subtableFromMLE
- simp (config := { failIfUnchanged := false })
  unfold Vector.append
- simp (config := { failIfUnchanged := false })
- solveMLE 32
+ simp
```
Comment (jprider63) [inline examples/zkLeanExamples/And.lean:84]: Suggestion: This can be simplified with: `simp [AND_64, evalSubtable, subtableFromMLE, Vector.append]`

**Review by jprider63 — COMMENTED** [review]
Looks good to me, thanks @limpa105! I left a few minor comments / suggestions.
